US06353111B1
A suspension of cyclopentylmethyl triphenylphosphonium iodide (151.73 g, 0.321 mol) in dry tetrahydrofuran (494 mL) was cooled to 0° C. and then treated slowly with a 1.0 M solution of lithium bis(trimethylsilyl)amide (309 mL, 0.309 mol). The bright orange reaction mixture was stirred at 0° C. for 1 h. The reaction mixture was then treated with a solution of (4-methylsulfanyl-phenyl)-oxo-acetic acid ethyl ester (55.42 g, 0.247 mol) in dry tetrahydrofuran (100 mL) in small portions. The resulting reaction mixture was stirred at 0° C. for 30 min and then allowed to warm to 25° C. where it was stirred for 6 h. The reaction mixture was then diluted with water (500 mL), at which time, the reaction mixture indicated a pH=11. The reaction mixture was adjusted to pH=6 with a 10% aqueous hydrochloric acid solution and then allowed to sit at 25° C. overnight. The reaction mixture was concentrated in vacuo to remove tetrahydrofuran and then diluted with diethyl ether (1 L). A solid began to precipitate, and the reaction mixture was allowed to sit at 25° C. for 1 h. The solid was filtered and washed well with diethyl ether. The resulting two-layer filtrate was transferred to a separatory funnel, and the layers were separated. The aqueous layer was further extracted with diethyl ether (1×500 mL). The combined organic layers were washed with a saturated aqueous sodium chloride solution (1×500 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Purification using a plug of silica (Merck Silica gel 60, 230-400 mesh, 9/1 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(4-methylsulfanyl-phenyl)-acrylic acid ethyl ester (58.93 g, 82%) as a yellow oil consisting of a 1.44:1 mixture of (E):(Z) isomers. The material was used without further separation and characterization.

reactant | cyclopentylmethyl triphenylphosphonium iodide | 0.321 mol, 151.73 g | [I-].C1(CCCC1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | lithium bis(trimethylsilyl)amide | 0.309 mol, 309 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | (4-methylsulfanyl-phenyl)-oxo-acetic acid ethyl ester | 0.247 mol, 55.42 g | C(C)OC(C(=O)C1=CC=C(C=C1)SC)=O | C11H12O3S
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 494 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | water | 500 mL | O | H2O
product | 3-cyclopentyl-2-(4-methylsulfanyl-phenyl)-acrylic acid ethyl ester | 58.93 g, 82% | C(C)OC(C(=CC1CCCC1)C1=CC=C(C=C1)SC)=O | C17H22O2S
